US07632861B2
1-(3,5-Bis(trifluoromethyl)benzyloxy)-2-(2-(2-methoxyvinyl)phenyl)but-3-en-2-ol.
To a suspension of 3-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-3-vinyl-1,3-dihydroisobenzofuran-1-ol (475 mg, 1.14 mmol) and (methoxymethyl)triphenylphosphonium chloride (973 mg, 2.84 mmol) in tetrahydrofuran (6 mL) at 0° C. was added potassium tert-butoxide (319 mg, 2.84 mmol). The ice bath was removed and stirring continued for 6 h. The reaction was quenched by addition of saturated ammonium chloride and poured into diethyl ether. The ethereal was washed with water, then brine, dried over magnesium sulfate, and concentrated. Column chromatography (12%-->25% EtOAc/Hex) gave 210 mg (41%) as a colorless oil. Mass spec.: 469.23 (MNa)+.

reactant | 3-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-3-vinyl-1,3-dihydroisobenzofuran-1-ol | 1.14 mmol, 475 mg | FC(C=1C=C(COCC2(OC(C3=CC=CC=C23)O)C=C)C=C(C1)C(F)(F)F)(F)F | C20H16F6O3
reactant | (methoxymethyl)triphenylphosphonium chloride | 2.84 mmol, 973 mg | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 2.84 mmol, 319 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 1-(3,5-Bis(trifluoromethyl)benzyloxy)-2-(2-(2-methoxyvinyl)phenyl)but-3-en-2-ol | FC(C=1C=C(COCC(C=C)(O)C2=C(C=CC=C2)C=COC)C=C(C1)C(F)(F)F)(F)F | C22H20F6O3
